US04645765
4-Formyl-6,9-dihydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate (50 mg) was dissolved in pyridine (1.19 ml) containing mesyl chloride (12 μl). The solution was stirred for 1 hour in a dry ice-carbon tetrachloride bath under nitrogen atmosphere. The solution was evaporated in vacuo and the residue was subjected to preparative thin layer chromatography. Development was carried out with a mixture of chloroform and methanol to afford 4-formyl-6,9-dihydroxy-11-mesyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate (47 mg).

reactant | 4-Formyl-6,9-dihydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate | 50 mg | C(N)(OCC1C2=C(C=C(C=C2N2CC3NC3C1(O2)O)C=O)O)=O | C14H15N3O6
reactant | mesyl chloride | 12 μl | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | pyridine | 1.19 ml | N1=CC=CC=C1 | C5H5N
product | 4-formyl-6,9-dihydroxy-11-mesyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate | 47 mg | C(N)(OCC1C2=C(C=C(C=C2N2CC3N(C3C1(O2)O)S(=O)(=O)C)C=O)O)=O | C15H17N3O8S
